US08008279B2
tert-Butyl-6-iodo-3,4-dihydro-1H-pyrido[4,3-b]indole-2(5H)-carboxylate (500 mg, 1.26 mmol), copper(I) iodide (71.7 mg, 0.38 mmol) and tri-potassium orthophosphate (533 mg, 2.51 mmol) were suspended in 2-dimethylaminoethanol (10 ml, 99.40 mmol) and sealed into a microwave tube. The reaction was heated to 150° C. for 1 hour in the microwave reactor and cooled to RT. The reaction mixture was diluted with DCM (100 mL), and washed with 2N NaOH (3×50 mL). The organic layer was dried over Na2SO4, filtered and evaporated to afford crude product. The crude product was purified by preparative HPLC (0.1% NH3, CH3CN/H2O gradient) to afford tert-butyl 6-(2-(dimethylamino)ethoxy)-3,4-dihydro-1H-pyrido[4,3-b]indole-2(5H)-carboxylate (304 mg, 67%) as a yellow gum.

reactant | tert-Butyl-6-iodo-3,4-dihydro-1H-pyrido[4,3-b]indole-2(5H)-carboxylate | 1.26 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CC2=C(NC=3C(=CC=CC23)I)CC1 | C16H19IN2O2
reactant | tri-potassium orthophosphate | 2.51 mmol, 533 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-dimethylaminoethanol | 99.40 mmol, 10 ml | CN(CCO)C | C4H11NO
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | copper(I) iodide | 0.38 mmol, 71.7 mg | [Cu]I
product | tert-butyl 6-(2-(dimethylamino)ethoxy)-3,4-dihydro-1H-pyrido[4,3-b]indole-2(5H)-carboxylate | 304 mg, 67% | CN(CCOC1=CC=CC=2C3=C(NC12)CCN(C3)C(=O)OC(C)(C)C)C | C20H29N3O3
